US04874773
Preparation of o-nitrobenzylideneacetoacetic cyclopropylamide:
o-Nitrobenzaldehyde (7.6 g, 0.05 mole) and acetoacetic cyclopropylamide (7.1 g, 0.05 mole) are dissolved in benzene (40 ml) and thereto are added piperidine (0.2 ml) and acetic acid (0.6 ml), and the mixture is refluxed for 2 hours and the produced water is removed. After the stoichiometic amount of water is distilled off, the reaction is stopped. After the reaction, the reaction mixture is washed with 5% hydrochloric acid and then with water, and the solvent is distilled off under reduced pressure, and to the residue is added diethyl ether, and the obtained crude crystals are recrystallized from ethanol to give the title compound (10.4 g, yield 75.6%) as colorless needles, m.p. 133°-134° C.

reactant | o-Nitrobenzaldehyde | 0.05 mole, 7.6 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | acetoacetic cyclopropylamide | 0.05 mole, 7.1 g | C1(CC1)NC(CC(=O)C)=O | C7H11NO2
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | o-nitrobenzylideneacetoacetic cyclopropylamide | 10.4 g, yield 75.6% | C1(CC1)NC(CC(=O)C=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C14H14N2O4
